US07183276B2
To a solution of 2-chloro-3-[2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]propionic acid (3.2 g) in acetic acid (30 mL) was added zinc powder (3.25 g) at 90° C. and the mixture was stirred at 90° C. for 15 min. The insoluble material was removed by filtration and the filtrate was concentrated. Water was added to the residue, and the precipitated crystals were collected by filtration and recrystallized from methanol to give 3-[2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]propionic acid (2.25 g, yield 79%) as colorless prism crystals. melting point: 135–136° C.

reactant | 2-chloro-3-[2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]propionic acid | 3.2 g | ClC(C(=O)O)CC1=C(N=C(O1)C)C1=CC=2CCCCC2C=C1 | C17H18ClNO3
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 3.25 g | [Zn] | Zn
product | 3-[2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]propionic acid | 2.25 g, yield 79% | CC=1OC(=C(N1)C1=CC=2CCCCC2C=C1)CCC(=O)O | C17H19NO3
